* Subcircuit 74F64
.subckt 74F64 net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ 
.title kicad schematic
* u28 net-_u24-pad3_ net-_u1-pad7_ net-_u28-pad3_ d_and
* u32 net-_u31-pad3_ net-_u30-pad3_ net-_u32-pad3_ d_or
* u31 net-_u29-pad3_ net-_u28-pad3_ net-_u31-pad3_ d_or
* u33 net-_u32-pad3_ net-_u1-pad12_ d_inverter
* u25 net-_u1-pad3_ net-_u1-pad4_ net-_u25-pad3_ d_and
* u29 net-_u23-pad3_ net-_u25-pad3_ net-_u29-pad3_ d_and
* u23 net-_u1-pad1_ net-_u1-pad2_ net-_u23-pad3_ d_and
* u24 net-_u1-pad5_ net-_u1-pad6_ net-_u24-pad3_ d_and
* u30 net-_u26-pad3_ net-_u27-pad3_ net-_u30-pad3_ d_or
* u26 net-_u1-pad8_ net-_u1-pad9_ net-_u26-pad3_ d_and
* u27 net-_u1-pad10_ net-_u1-pad11_ net-_u27-pad3_ d_and
a1 [net-_u24-pad3_ net-_u1-pad7_ ] net-_u28-pad3_ u28
a2 [net-_u31-pad3_ net-_u30-pad3_ ] net-_u32-pad3_ u32
a3 [net-_u29-pad3_ net-_u28-pad3_ ] net-_u31-pad3_ u31
a4 net-_u32-pad3_ net-_u1-pad12_ u33
a5 [net-_u1-pad3_ net-_u1-pad4_ ] net-_u25-pad3_ u25
a6 [net-_u23-pad3_ net-_u25-pad3_ ] net-_u29-pad3_ u29
a7 [net-_u1-pad1_ net-_u1-pad2_ ] net-_u23-pad3_ u23
a8 [net-_u1-pad5_ net-_u1-pad6_ ] net-_u24-pad3_ u24
a9 [net-_u26-pad3_ net-_u27-pad3_ ] net-_u30-pad3_ u30
a10 [net-_u1-pad8_ net-_u1-pad9_ ] net-_u26-pad3_ u26
a11 [net-_u1-pad10_ net-_u1-pad11_ ] net-_u27-pad3_ u27
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u28 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_or, Ngspice Name: d_or
.model u32 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_or, Ngspice Name: d_or
.model u31 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u33 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u25 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u29 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u23 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u24 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_or, Ngspice Name: d_or
.model u30 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u26 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u27 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Control Statements

.ends 74F64